US06043358
A mixture of 1-(tert-butoxycarbonyl)-2,3,6,7-tetrahydro-5-methoxy-(1H)-1,4-diazepine (170 mg, 0.75 mmol) and ammonium chloride (40.1 mg, 0.75 mmol) in 2.0 mL of anhydrous ethanol was refluxed for 3 h. The solvent was then removed in vacuo and residue was triturated with 3×10 mL of ether to give 174 mg of 1-(tert-butoxycarbonyl)-hexahydro-5-imino-(1H)-1,4-diazepine hydrochloride as a light yellow solid.

reactant | 1-(tert-butoxycarbonyl)-2,3,6,7-tetrahydro-5-methoxy-(1H)-1,4-diazepine | 0.75 mmol, 170 mg | C(C)(C)(C)OC(=O)N1CCN=C(CC1)OC | C11H20N2O3
reactant | ammonium chloride | 0.75 mmol, 40.1 mg | [Cl-].[NH4+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 1-(tert-butoxycarbonyl)-hexahydro-5-imino-(1H)-1,4-diazepine hydrochloride | 174 mg | Cl.C(C)(C)(C)OC(=O)N1CCNC(CC1)=N | InChI=1S/C10H19N3O2.ClH/c1-10(2,3)15-9(14)13-6-4-8(11)12-5-7-13;/h4-7H2,1-3H3,(H2,11,12);1H
